US08871756B2
2-(8-Methoxy-1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-amine
A mixture solution of tert-butyl [2-(8-methoxy-1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]carbamate (59.0 mg, 0.12 mmol) and trifluoroacetic acid (0.5 mL) in dichloromethane (2.0 mL) was stirred at room temperature for 6 hours. Then the reaction mixture was extracted with ethyl acetate (100 mL). The organic layer was washed with brine (50 mL×2), dried over anhydrous sodium sulfate and then concentrated in vacuo. The residue was purified by preparative HPLC to afford 10.2 mg of the product as a white solid (yield was 21.5%). MS obsd. (ESI+) [(M+H)+] 384, 1H NMR (400 MHz, CD3OD) δ ppm 7.72 (d, J=8.34 Hz, 1 H), 7.58 (s, 1 H), 7.50 (d, J=2.78 Hz, 1 H), 7.43 (d, J=8.34 Hz, 1 H), 7.29 (dd, J=8.46, 1.89 Hz, 1 H), 7.12 (dd, J=8.34, 2.78 Hz, 1 H), 6.27 (s, 1 H), 5.02 (s, 2 H), 4.47 (brs, 2 H), 3.82 (s, 3 H), 3.56 (t, J=4.80 Hz, 2 H), 2.42 (s, 3 H).

reactant | tert-butyl [2-(8-methoxy-1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]carbamate | 0.12 mmol, 59.0 mg | COC1=CC2=C(CN(CCS2(=O)=O)C2=NC3=CC=C(C=C3C(=C2)NC(OC(C)(C)C)=O)C)C=C1 | C25H29N3O5S
reactant | trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
product | 2-(8-Methoxy-1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-amine | 10.2 mg, yield was 21.5% | COC1=CC2=C(CN(CCS2(=O)=O)C2=NC3=CC=C(C=C3C(=C2)N)C)C=C1 | C20H21N3O3S
